US08202858B2
4-(2-tert-Butoxycarbonyl-ethyl)-3-methyl-benzoic Acid Methyl Ester
4-((E)-2-tert-Butoxycarbonyl-vinyl)-3-methyl-benzoic acid methyl ester from Example E30.1 (4.00 g, 14.5 mmol) was dissolved in methanol (100 ml) and hydrogenated over 10% Pd/C catalyst (480 mg) for 5 h. The mixture was filtered through Celite® filter agent and the filtrate was concentrated in vacuo to yield the title compound (3.41 g, 84%).

reactant | 4-((E)-2-tert-Butoxycarbonyl-vinyl)-3-methyl-benzoic acid methyl ester | COC(C1=CC(=C(C=C1)\C=C\C(=O)OC(C)(C)C)C)=O | C16H20O4
solvent | methanol | 100 ml | CO | CH4O
catalyst | Pd/C | 480 mg | [Pd] | Pd
product | 4-(2-tert-Butoxycarbonyl-ethyl)-3-methyl-benzoic Acid Methyl Ester | 3.41 g, 84% | COC(C1=CC(=C(C=C1)CCC(=O)OC(C)(C)C)C)=O | C16H22O4
